US07423159B2
A mixture of ethyl 4-({(2E)-3-[5-(4-fluorophenyl)-1-methyl-1H-pyrazol-4-yl]prop-2-enoyl}amino)benzoate (510 mg), a 2N aqueous sodium hydroxide solution (1.29 mL) and ethanol (20 mL) was stirred at 50° C. for 14 hrs. 1N Hydrochloric acid (2.6 mL) was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium hydrogen carbonate, and then with saturated brine, dried (MgSO4) and concentrated. The obtained solid was recrystallized from acetone-hexane to give 4-({(2E)-3-[5-(4-fluorophenyl)-1-methyl-1H-pyrazol-4-yl]prop-2-enoyl}amino)benzoic acid (390 mg, yield 82%) as colorless prism crystals. melting point: 291-292° C.

reactant | ethyl 4-({(2E)-3-[5-(4-fluorophenyl)-1-methyl-1H-pyrazol-4-yl]prop-2-enoyl}amino)benzoate | 510 mg | FC1=CC=C(C=C1)C1=C(C=NN1C)/C=C/C(=O)NC1=CC=C(C(=O)OCC)C=C1 | C22H20FN3O3
reactant | sodium hydroxide | 2N, 1.29 mL | [OH-].[Na+]
reactant | Hydrochloric acid | 1N, 2.6 mL | Cl | ClH
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 4-({(2E)-3-[5-(4-fluorophenyl)-1-methyl-1H-pyrazol-4-yl]prop-2-enoyl}amino)benzoic acid | 390 mg, yield 82% | FC1=CC=C(C=C1)C1=C(C=NN1C)/C=C/C(=O)NC1=CC=C(C(=O)O)C=C1 | C20H16FN3O3
